US07683069B2
To a solution of the 5-(2-chlorophenyl)-1,2,3,6-tetrahydro-1-methylpyridine (5.9 g) in dichloromethane (60 ml) was added 1-chloroethyl chloroformate (5.1 ml) and the mixture was stirred for 2.5 h. The mixture was washed with water and then with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to give brown oil. A solution of the obtained oil in methanol was refluxed for 2 h. The solvent was evaporated under reduced pressure and the obtained residue was crystallized from ethyl acetate to give 5-(2-chlorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride (2.4 g). A solution of 5-(2-chlorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride (156 mg), 2-chloro-1,6-dihydro-1-methyl-6-oxo-4-(pyridin-4-yl)pyrimidine (150 mg) and triethylamine (236 μl) in dimethylformamide (3 ml) was stirred at room temperature for 6 h. To the reaction mixture was added water (3 ml), and the precipitated crystals were collected by filtration to give the title compound (240 mg) as white crystals.

reactant | 5-(2-chlorophenyl)-1,2,3,6-tetrahydro-1-methylpyridine | 5.9 g | ClC1=C(C=CC=C1)C1=CCCN(C1)C | C12H14ClN
reactant | 1-chloroethyl chloroformate | 5.1 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 5-(2-chlorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride | 2.4 g | Cl.ClC1=C(C=CC=C1)C1=CCCNC1 | InChI=1S/C11H12ClN.ClH/c12-11-6-2-1-5-10(11)9-4-3-7-13-8-9;/h1-2,4-6,13H,3,7-8H2;1H
